US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as described in Example 1 to give 3-[2,4-difluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a pale yellow solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, DMSO) 7.55 (1H, dd, J 9 and 9), 7.62-7.68 (2H, m), 7.86-7.96 (2H, m), 8.14 (1H, ddd, J 8, 8 and 2), 8.38 (1H, s), 8.84 (1H, d, J 5), 9.30 (1H, dd, J 7 and 3); m/z (ES+) 377 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC1=C(C(=CC=C1B1OC(C(O1)(C)C)(C)C)F)C1=NC=CC=C1 | C17H18BF2NO2
product | 3-[2,4-difluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC(=C1C1=NC=CC=C1)F)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H9F5N4
